US04757079
Next, a 250 mL three-necked round bottomed flask was fitted with a reflux condenser, an addition funnel and a gas inlet tube. A gentle flow of nitrogen was maintained throughout the reaction. To a stirred suspension of 1-naphthylmethyltriphenylphosphonium chloride (4.39 g, 0.01 mole) in 125 mL of anhydrous ether was added, dropwise through a syringe at 0°, an ethereal solution of n-butyllithium (3.85 mL of a 2.6M solution in hexanes). After the addition, the solution was stirred at room temperature for 2 hours as an orange-yellow precipitate formed. A solution of 1-methylpiperidine-4-carboxaldehyde (1.27 g, 0.01 mole) in 25 mL of ether was added dropwise. The reaction mixture became colorless and a white precipitate separated. The mixture was heated under reflux overnight, allowed to cool to room temperature, and the precipitate was removed by filtration. The precipitate was washed with 2×50 mL portions of ether. The combined ethereal filtrates were washed with 3×50 mL portions of water until the washings were neutral. The organic solution was dried (MgSO4) and evaporated in vacuo. The residue was dissolved in petroleum ether and the small amount of triphenyl phosphine oxide (0.1 g) that precipitated was removed. The petroleum ether solution was concentrated to give 1-methyl-4-(1-naphthylvinyl)piperidine as a thick syrup. (1.822 g, 73%): IR (KBr) 3060, 3040, 3000, 2940, 2850, 2780, 2740, 2680, 1920 (W), 1800 (W), 1725 (W), 1640 (W), 1590, 1510, 1465, 1445, 1380, 1280, 1200, 1140, 1120, 1070, 970, 850, 780, 720 and 700 cm-1 ; NMR (CDCl3) δ1.70 (m, 5H), 1.33 (m, 2H), 2.20 (s, 3H), 2.68 (m, 2H), 6.13 (d.d, J=6 Hz, 2H), and 7.40 (m, 7H). The strong absorption at 970 cm-1 in the IR spectrum and the NMR peak at δ6.13 indicated that the major product was the trans-naphthylvinylpiperidine. Gas chromatographic analysis showed that the product contained 87.3% of the trans and 12.7% of the cis isomer.

reactant | 1-naphthylmethyltriphenylphosphonium chloride | 0.01 mole, 4.39 g | [Cl-].C1(=CC=CC2=CC=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-methylpiperidine-4-carboxaldehyde | 0.01 mole, 1.27 g | CN1CCC(CC1)C=O | C7H13NO
solvent | ether | 125 mL | CCOCC | C4H10O
solvent | ether | 25 mL | CCOCC | C4H10O
product | 1-methyl-4-(1-naphthylvinyl)piperidine | CN1CCC(CC1)C=CC1=CC=CC2=CC=CC=C12 | C18H21N
